US04851519
140 mg of benzoyl chloride were added to a solution of 255 mg of 5'-amino-2',5'-dideoxy-5-ethyluridine in 3 ml of 0.33M sodium hydroxide solution and the mixture was shaken vigorously for 5 minutes. The mixture was filtered and the solid was washed with 5 ml of water and 5 ml of diethyl ether, and recrystallized from ethanol to give 140 mg of 5'-benzamido-2',5'-dideoxy-5-ethyluridine of melting point 246°-247° C.

reactant | benzoyl chloride | 140 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5'-amino-2',5'-dideoxy-5-ethyluridine | 255 mg | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
solvent | sodium hydroxide | 0.33M, 3 ml | [OH-].[Na+]
product | 5'-benzamido-2',5'-dideoxy-5-ethyluridine | 140 mg | C(C1=CC=CC=C1)(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C18H21N3O5
